US07781428B2
(±)-(3SR,3aRS)-butyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and n-butanol according to Method E. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.94 (t, J=7.38 Hz, 3H), 1.12-1.55 (m, 9H), 1.66-1.75 (m, 3H), 1.83 (ddd, J=25.91, 13.02, 4.03 Hz, 1H), 2.01-2.11 (m, 1H), 2.20-2.27 (m, 1H), 2.85-2.96 (m, 1H), 3.07-3.15 (m, 1H), 3.61 (ddd, J=13.63, 9.33, 4.70 Hz, 1H), 4.29 (t, J=6.44 Hz, 2H), 4.97 (dd, J=9.53, 5.77 Hz, 1H), 7.21 (dd, J=8.86, 1.88 Hz, 1H), 7.42 (d, J=2.15 Hz, 1H), 7.69 (d, J=8.86 Hz, 1H), 7.83 (dd, J=8.32, 1.34 Hz, 1H), 7.87 (s, 1H), 8.12 (d, J=8.32 Hz, 1H); ES-MS m/z 476 (M+H).

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
solvent | n-butanol | C(CCC)O | C4H10O
product | (±)-(3SR,3aRS)-butyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCCCC | C28H30ClN3O2
